US08703810B2
A mixture of (S)-2-aminopropan-1-ol (12.5 g, 0.166 mol), 1,4-dibromopentane (42 g, 0.18 mol) and Na2CO3 (53 g, 0.51 mol) in EtOH (800 mL) was heated at 100° C. for 24 h. The mixture was filtered, and the filter cake was washed with EtOH (50 mL). The combined filtrate was concentrated under reduced pressure, and the crude product was purified on a silica gel column (NH4OH/MeOH/DCM=1/6/300) to give (S)-2-((S)-2-methylpyrrolidin-1-yl)propan-1-ol (2.1 g) as a colorless oil and a crude mixture containing (S)-2-(R)-2-methylpyrrolidin-1-yl)propan-1-ol. 1H NMR (DMSO-d6): δ 4.22 (br s, 1H), 3.36 (dd, 1H), 3.22 (dd, 1H), 2.82 (m, 1H), 2.65 (m, 2H), 2.42 (q, 1H), 1.78 (m, 1H), 1.60 (m, 2H), 1.25 (m, 1H), 0.95 (d, 3H), 0.84 (d, 3H); LCMS: 144 (M+H)+.

reactant | (S)-2-aminopropan-1-ol | 0.166 mol, 12.5 g | N[C@H](CO)C | C3H9NO
reactant | 1,4-dibromopentane | 0.18 mol, 42 g | BrCCCC(C)Br | C5H10Br2
reactant | Na2CO3 | 0.51 mol, 53 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 800 mL | CCO | C2H6O
product | (S)-2-((S)-2-methylpyrrolidin-1-yl)propan-1-ol | 2.1 g | C[C@@H]1N(CCC1)[C@H](CO)C | C8H17NO
